US06936602B1
In methanol (40 ml) and THF (60 ml) was dissolved methyl 1-methoxycarbonyl-7-(4-morpholinophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.31 g). To the solution was-added 1N sodium hydroxide solution (5 ml), and the mixture was stirred at room temperature overnight. To the mixture was added 1N sodium hydroxide solution (2.5 ml), and the mixture was stirred at room temperature overnight and concentrated. The residue was neutralized with 1N hydrochloric acid, precipitated crystals were filtered and washed with water to give 1-methoxycarbonyl-7-(4-morpholinophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (0.29 g) as colorless crystals.

reactant | methyl 1-methoxycarbonyl-7-(4-morpholinophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.31 g | COC(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2CCOCC2)C(=O)OC | C24H26N2O5
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 2.5 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-methoxycarbonyl-7-(4-morpholinophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 0.29 g | COC(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2CCOCC2)C(=O)O | C23H24N2O5
